US05164402
Preparation C 1. 3-Benzyl-1-[N-(tert-butoxycarbonyl)ethylaminomethyl]-3-azabicyclo[3.1.0]hexane
The compound of Preparation A.4. (1.1 g, 5.4 mmol) was dissolved in methanol (55 ml) and treated with acetic acid (0.31 ml, 5.4 mmol), acetaldehyde (0.30 ml, 5.4 mmol) and sodium cyanoborohydride (341 mg, 5.4 mmol). The reaction mixture was allowed to stir at room temperature for 18 hours; it was then diluted with water and methylene chloride and acidified to pH 1 with 6N hydrochloric acid. Potassium carbonate was then added until the pH of the aqueous layer was 10; the mixture was extracted three times with methylene chloride, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was subjected to silica gel chromatography (eluant: 89:10:1 chloroform:methanol:concentrated ammonium hydroxide) to provide a colorless oil (390 mg, 2:1 mixture of 3-benzyl-1-ethylaminomethyl-3-azabicyclo[3.1.0]hexane and 1-aminomethyl-3-benzyl-3-azabicyclo[3.1.0]hexane). This material was dissolved in dioxane (18 ml) and water (2 ml) and treated with triethylamine (0.7 ml, 5.0 mmol) and di-tert-butyl dicarbonate (1.1 g, 5.0 mmol); the reaction mixture was allowed to stir for 18 hours at room temperature. The solution was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. The aqueous layer as extracted three times with methylene chloride and the combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting colorless oil was subjected to purification on a Chromatotron (trademark) (eluant: 400:10:1 chloroform:methanol:concentrated ammonium hydroxide) to provide the title product as a yellow oil (277 mg, 0.84 mmol, 16% yield). 1H NMR (CDCl3): 7.30 (m, 5H), 3.65 (bs, 2H), 3.30 (m, 4H), 3.00 (m, 2H), 2.44 (m, 2H), 1.48 (s, 9H), 1.25 (m, 1H), 1.15 (m, 1H), 1.12 (t, J=7 Hz, 3H), 0.46 (bs, 1H).

reactant | acetic acid | 5.4 mmol, 0.31 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 5.4 mmol, 0.30 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 5.4 mmol, 341 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-benzyl-1-ethylaminomethyl-3-azabicyclo[3.1.0]hexane | C(C1=CC=CC=C1)N1CC2(CC2C1)CNCC | C15H22N2
reactant | 1-aminomethyl-3-benzyl-3-azabicyclo[3.1.0]hexane | NCC12CN(CC2C1)CC1=CC=CC=C1 | C13H18N2
reactant | triethylamine | 5.0 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.0 mmol, 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 55 ml | CO | CH4O
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | 3-Benzyl-1-[N-(tert-butoxycarbonyl)ethylaminomethyl]-3-azabicyclo[3.1.0]hexane | 0.84 mmol, 277 mg, 16% yield | C(C1=CC=CC=C1)N1CC2(CC2C1)CNCCC(=O)OC(C)(C)C | C20H30N2O2
